US08648068B2
64. 1 (S)-3-{5-Fluoro-2-[5-methyl-6-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-thieno[2,3-d]pyrimidin-4-ylamino]-phenoxy}-piperidine-1-carboxylic acid tert-butyl ester
HATU was added into a solution of 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (100 mg) and DIPEA in anhydrous DMF (2 ml) at 0° C. The reaction was stirred for 0.5 h when 1-methyl-1H-pyrazol-3-amine (100 μl) was added and the reaction allowed to warm to room temperature and stirred for 2 h. The DMF was removed by co-evaporation from toluene and the residue was purified by chromatography to give the intended product.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C24H27FN4O5S
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methyl-1H-pyrazol-3-amine | 100 μl | CN1N=C(C=C1)N | C4H7N3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-3-{5-Fluoro-2-[5-methyl-6-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-thieno[2,3-d]pyrimidin-4-ylamino]-phenoxy}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(NC2=NN(C=C2)C)=O | C28H32FN7O4S
